US04424231
A solution of 7-hydroxynaphthalene-2-carboxylic acid (56.09 g) in ethanol (200 ml) was saturated with dry hydrogen chloride and then refluxed for 30 minutes. The mixture was evaporated to about half volume, treated with water, and extracted with ethyl acetate, which was washed with water, and sodium bicarbonate solution, dried and evaporated to give a solid. Crystallisation from ethyl acetate afforded ethyl 7-hydroxynaphthalene-2-carboxylate (37.5 g), m.p. 155°-156°.

reactant | 7-hydroxynaphthalene-2-carboxylic acid | 56.09 g | OC1=CC=C2C=CC(=CC2=C1)C(=O)O | C11H8O3
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 7-hydroxynaphthalene-2-carboxylate | 37.5 g | OC1=CC=C2C=CC(=CC2=C1)C(=O)OCC | C13H12O3
